US07381728B2
N-[5-(cis-3,5-Dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-3-fluoro-4-(2-thienyl)benzenesulfonamide (E114)
To a mixture of 4-bromo-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-3-fluorobenzenesulfonamide (E105) (100 mg, 0.21 mmol) and 2-thienylboronic acid (54 mg, 0.42 mmol) in DME (3 ml) was added potassium tert-butoxide (212 mg, 1.89 mmol) and tetrakis(triphenylphosphine)palladium(0) (12 mg, 0.01 mmol) in water (1 ml) and the resulting mixture stirred in a microwave (set at high absorbance) at 100° C. for 30 minutes. Additional 2-thienylboronic acid (27 mg, 0.21 mmol) and tetrakis(triphenylphosphine)palladium(0) (12 mg, 0.01 mmol) were then added and the mixture stirred in a microwave (set at high absorbance) at 100° C. for a further 45 minutes. The solvent was evaporated with addition of a few drops of toluene and the residue passed through an SCX column eluting with methanol followed by 2M ammonia in methanol. The abasic fractions were combined and the solvent evaporated. The crude product was purified by mass directed autoprep HPLC, the relevant fractions collected and solvent evaporated to afford the title compound (E114). MS (ES+) m/e 476 [M+H]+.

reactant | 4-bromo-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-3-fluorobenzenesulfonamide | 0.21 mmol, 100 mg | BrC1=C(C=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)N1C[C@H](N[C@H](C1)C)C)OC)F | C19H23BrFN3O3S
reactant | 2-thienylboronic acid | 0.42 mmol, 54 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | potassium tert-butoxide | 1.89 mmol, 212 mg | CC(C)([O-])C.[K+]
reactant | 2-thienylboronic acid | 0.21 mmol, 27 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
solvent | DME | 3 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[5-(cis-3,5-Dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-3-fluoro-4-(2-thienyl)benzenesulfonamide | C[C@@H]1CN(C[C@@H](N1)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=CC(=C(C=C1)C=1SC=CC1)F)OC | C23H26FN3O3S2
